US05298660
15.0 g (0.124 mole) of (R)-(+)-1-phenylethylamine and 19.8 g (0.13 mole) of 2-hydroxy-3-methoxybenzaldehyde were dissolved in 300 ml of ethyl alcohol, and the resultant solution was stirred at room temperature for 3 hours, and then stirred under reflux for 2 hours. After that, 2.35 g (0.062 mole) of sodium borohydride were added at room temperature to the reaction mixture, which was then stirred at a temperature of from 30° to 35° C. for 1 hour, and thereafter stirred at a temperature of from 55° to 60° C. for 1.5 hours. After the completion of the reaction, 50 ml of a 10% hydrochloric acid were added at room temperature. The reaction mixture was then concentrated under reduced pressure, and the resulting residue was dissolved in 150 ml of water. The aqueous solution thus formed was washed with 150 ml of toluene, and the aqueous layer was neutralized or weakly alkalized with a 23% aqueous sodium hydroxide solution. The toluene layer was washed with water, and concentrated under reduced pressure to give 31.41 g of (R)-(+)-N-(2-hydroxy-3-methoxybenzyl)-1-phenylethylamine as oily substance. Yield: 98.6%.

reactant | (R)-(+)-1-phenylethylamine | 0.124 mole, 15.0 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | 2-hydroxy-3-methoxybenzaldehyde | 0.13 mole, 19.8 g | OC1=C(C=O)C=CC=C1OC | C8H8O3
reactant | sodium borohydride | 0.062 mole, 2.35 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 300 ml | C(C)O | C2H6O
product | (R)-(+)-N-(2-hydroxy-3-methoxybenzyl)-1-phenylethylamine | 31.41 g, Yield: 98.6% | OC1=C(CN[C@H](C)C2=CC=CC=C2)C=CC=C1OC | C16H19NO2
